US04820821
5.3 g (52.4 millimoles) of triethylamine were added dropwise to 10.0 g (48.2 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride in 20 ml (22.6 g, 167 millimoles) of phenyl isothiocyanate at room temperature, while stirring. After the addition was complete, the reaction mixture was stirred for a further 2 hours at room temperature and then diluted with 30 ml of acetone. The product was filtered off under suction, washed with acetone, with water and again with acetone, and recrystallized from ethanol. 6.0 g (41% of theory) of 1,4-dihydro-1-phenyl-4-[(phenylthiocarbamyl)-imino]-pyridazine were isolated as orange crystals of melting point 171°-173° C.

reactant | triethylamine | 52.4 millimoles, 5.3 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | 48.2 millimoles, 10.0 g | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | phenyl isothiocyanate | 167 millimoles, 20 ml, 22.6 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 1,4-dihydro-1-phenyl-4-[(phenylthiocarbamyl)-imino]-pyridazine | 6.0 g, 41% | C1(=CC=CC=C1)N1N=CC(C=C1)=NC(NC1=CC=CC=C1)=S | C17H14N4S
